US06528510B1
1-Furan-3-yl-4-methyl-pentan-3-one
The title compound was prepared according to General Method 4a using 3-bromofuran (17 mmol), 4-methyl-1-penten-3-ol (25.5 mmol), tetrabutyl ammonium chloride (17 mmol), sodium bicarbonate (42.5 mmol), DMF (15 mL), and palladium acetate (0.9 mmol). The title compound was flash chromatographed eluting with EtOAc:hexane (5:95 to 10:90).

reactant | 3-bromofuran | 17 mmol | BrC1=COC=C1 | C4H3BrO
reactant | 4-methyl-1-penten-3-ol | 25.5 mmol | CC(C(C=C)O)C | C6H12O
reactant | sodium bicarbonate | 42.5 mmol | C([O-])(O)=O.[Na+]
catalyst | tetrabutyl ammonium chloride | 17 mmol | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 0.9 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-Furan-3-yl-4-methyl-pentan-3-one | O1C=C(C=C1)CCC(C(C)C)=O | C10H14O2
